Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left leg swelling 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old M with PMHx HTN, HLD, obesity who was 
sent to the ED from his PCP's office in the context of LLE 
pain/swelling. Mr. ___ presented to his PCP after he was 
having left lower extremity edema x 1 week.  He recently flew 
from ___ to ___ two weeks ago.  The pain from the edema 
has been uncomfortable with walking and he has been using 
crutches.  He tried aleve without relief of calf pain and 
tightness. On further history, Mr. ___ reports an episode of 
dyspnea and near syncope a few days prior to presentation.

In the ED, initial VS were: 98.4 79 136/83 16 99% RA 
Exam notable for left leg swelling
Labs were notable for:
Cr 1.3 (baseline 1.1-1.3)
PTT 30.4->150
WBC 5.8, Hgb 13.4, Plt 207

CTA showed a small nonocclusive subsegmental PE in RUL. No 
evident right heart strain. Also calcified mediastinal lymph 
nodes and punctate calcifications in the liver and spleen, 
compatible with prior granulomatous disease.

___ showed deep vein thrombosis of a left peroneal vein and an 
additional deep vein in the left calf, which may represent the 
gastrocnemius vein.

He received:
___ 00:18 IV Heparin 9400 UNIT 
___ 00:18 IV Heparin  Started 2100 units/hr 
___ 00:59 IVF NS 

Transfer VS were: 62 115/75 18 99% RA 
 
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports progressive painful 
left lower extremity swelling for the last week, started last 
___.  He reports flying to ___ two weeks ago and flying 
home from ___ a few days ago to ___.  No other travel including 
long car rides in recent past.  Mr. ___ reports feeling 
___ with sweating a few days ago while in ___ while 
using the bathroom with associated dyspnea.  His symptoms 
resolved upon walking back from the bathroom and resting on his 
bed within 20 minutes.  He denies further episodes of presyncope 
or dyspnea.  He denies chest pain as well.  He currently feels 
very well, reports that he is hungry.  He thinks his lower 
extremity swelling is improving especially on the top of his 
feet.  He denies a history of VTE or a family history of VTE.  
No recent surgeries, trauma, prolonged immobilization or cancer. 
 

REVIEW OF SYSTEMS:  
(+)
(-) Fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 
 
All other 10-system review negative in detail.  
 
Past Medical History:
Obesity
HLD
Essential HTN
DMII
Gout
Esophageal ring s/p dilation ___
Internal hemorrhoids ___ 
Left shoulder arthroscopic rotator cuff repair and subacromial 
decompression ___ (___)
Status post right patellar tendon rupture open reduction and
internal fixation (scooter vs ped ___ 
 
Social History:
___
Family History:
Mother - asthma, colorectal cancer, passed away ___
Sister - asthma
Brother - prostate problems, possible CVA
Reports two half brothers with "blood clot"; one with blood clot 
in his chest and the other with blood clot in his neck.
 
Physical Exam:
ADMISSION & DISCHARGE PHYSICAL EXAM:
====================================
VS: T97.9 BP141/85 HR67 RR16 98%RA 
GENERAL: WDWN male in no acute distress, alert and oriented, 
interactive 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: Warm and well perfused; LLE with 1+ edema from top 
of feet to shin, minimal discomfort to left calf palpation; RLE 
without significant edema
PULSES: 2+ DP pulse R foot; 1+ DP pulse L foot secondary to 
edema 
NEURO: CN II-XII intact, UE & ___ ___ grossly, sensation intact; 
antalagic gait using crutches secondary to discomfort from left 
leg   
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
ADMISSION & DISCHARGE LABS:
==========================
___ 08:29PM BLOOD WBC-5.8# RBC-5.17 Hgb-13.4* Hct-43.6 
MCV-84 MCH-25.9* MCHC-30.7* RDW-14.6 RDWSD-45.1 Plt ___
___ 08:29PM BLOOD Neuts-54.9 ___ Monos-10.6 Eos-2.2 
Baso-0.3 Im ___ AbsNeut-3.20 AbsLymp-1.85 AbsMono-0.62 
AbsEos-0.13 AbsBaso-0.02
___ 08:29PM BLOOD ___ PTT-30.4 ___
___ 08:29PM BLOOD Glucose-149* UreaN-19 Creat-1.3* Na-136 
K-4.6 Cl-102 HCO3-25 AnGap-14

MICROBIOLOGY:
============
NONE

STUDIES/REPORTS:
===============
___ EKG
Sinus ___ NA NI no ST/T wave changes c/f ischemia 

___ CTA CHEST
FINDINGS:  
  
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the 
subsegmental level.  A subsegmental nonocclusive filling defect 
within a branch supplying the right upper lobe (301:76) is 
compatible with subsegmental pulmonary embolism.  There is no 
straightening of the interventricular septum to suggest right 
heart strain.  The thoracic aorta is normal in caliber without 
evidence of dissection or intramural hematoma.  The heart, 
pericardium, and great vessels are within normal limits. No 
pericardial effusion is seen. 
  
AXILLA, HILA, AND MEDIASTINUM: Note is made of aortopulmonary 
window nodes which measure 6 mm in short axis (02:44), not 
pathologically enlarged. Calcified non pathologically enlarged 
right lower paratracheal station nodes are noted, compatible 
with prior granulomatous disease. Right hilar nodal conglomerate 
measures 1.5 x 1.6 cm (02:54), likely reactive.  No axillary 
lymphadenopathy is present.  No mediastinal mass. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: Mild dependent atelectasis is noted in both lower 
lobes.  Lungs are otherwise clear without masses or areas of 
parenchymal opacification.  The airways are patent to the level 
of the segmental bronchi bilaterally. 
  
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality. The imaged thyroid gland is homogeneous in 
attenuation without focal nodularity. 
  
ABDOMEN: Although examination is not tailored for 
subdiaphragmatic evaluation, images of the upper abdomen 
demonstrate no appreciable abnormality.  Calcified granulomas 
are present in the liver and spleen indicate prior granulomatous 
disease. 
  
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture. 
  
IMPRESSION:  
1. Small nonocclusive subsegmental pulmonary embolism involving 
a pulmonary artery branch supplying the right upper lobe.  No 
evidence for right heart strain. 
2. Calcified mediastinal lymph nodes and punctate calcifications 
in the liver and spleen, compatible with prior granulomatous 
disease. 
3. Prominent right hilar lymph node is likely reactive. 

___ BILATERAL LENIS
1. Deep vein thrombosis of a left peroneal vein and an 
additional deep vein in the left calf, which may represent the 
gastrocnemius vein. 
2. No deep venous thrombosis in the right lower extremity. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a PMHx notable for HTN, HLD, 
obesity who was found to have an acute left lower extremity deep 
venous thromboembolism in the setting of one week of left lower 
extremity swelling. Given a report of dyspnea and prescynope a 
few days prior to admission, a CTA chest was obtained which 
showed a small non occlusive subsegmental pulmonary embolism. 
Mr. ___ was started on heparin and admitted to the general 
medical floor. On admission, his orthostatic vital signs were 
negative and Mr. ___ was without dyspnea at rest, dyspnea with 
exertion, chest pain or presyncope with an unremarkable 
cardiovascular exam. Upon further history gathering, Mr. ___ 
reported feeling lightheaded and sweaty while using the bathroom 
a few days prior to admission and that these feelings resolved 
after resting for twenty minutes. Mr. ___ was started on 
apixiban prior to discharge (10mg apixiban BID starting ___ in 
evening for 7 days to switch to 5mg apixiban BID starting ___. 
Mr. ___ anticipated plan of anticoagulation is at least 
three months. It was unclear whether his VTE was provoked or 
unprovoked as his only risk factors for VTE include a plane ride 
from ___ to ___ two weeks prior to the onset of left 
lower extremity swelling. He denied trauma, recent surgery, 
family or personal history of VTE or clotting disorders, or 
immobilization. His cancer screening is up to date with last 
colonoscopy ___ (benign) and PSA 0.6mg in ___ per primary care 
records. 

CHRONIC MEDICAL CONDITIONS:
# CKD II: Baseline Cr 1.12-1.29 per Atrius records. Admission Cr 
1.3.
# HLD: Continued statin.
# HTN: Continued lisinopril. 
# Gout: Continued allopurinol. 
# DMII: Last HcA1c 6.7%, not on any home antihyperglycemics. 

TRANSITIONAL ISSUES:
===================
- Unclear per history if VTE was provoked or unprovoked; he had 
a short flight prior to onset of symptoms. Will need at least 3 
months of anticoagulation with final course to be determined by 
PCP.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Lisinopril 2.5 mg PO DAILY 
4. Viagra (sildenafil) 100 mg oral ASDIR 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth Twice a day 
Disp #*28 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
Start 5mg twice daily on ___ 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice a day 
Disp #*60 Tablet Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Lisinopril 2.5 mg PO DAILY  
6.  Viagra (sildenafil) 100 mg oral ASDIR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Acute left lower extremity deep venous thrombosis
Acute subsegmental pulmonary embolism

Secondary Diagnosis:
Hypertension
Obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
==================================
- You had leg swelling

WHAT WAS DONE FOR ME WHILE I WAS HERE?
=====================================
- You had an ultrasound of your legs which showed a blood clot 
in your left leg veins.
- You had a scan of your chest which should a small blood clot 
in your lungs.
- You were started on a blood thinner to make sure that the 
blood clot in your leg does not travel to your lungs.

WHAT SHOULD YOU DO NEXT?
=======================
- Please take your blood thinner (apixiban) as prescribed.
- Please follow up with your primary care doctor as scheduled.
- Please avoid taking aleeve or NSAIDs for pain, you should try 
Tylenol.
- Your left leg swelling will improve over time. 

We wish you the best moving forward,

Your ___ Care Team
 
Followup Instructions:
___